US04263037
(f) 5-Bromo-2,3-dihydro-3,3-dimethyl-2-ethoxybenzofuran (II)
5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (5 g, 0.02 mole) was heated under reflux in ethanol (30 ml) with sulphuric acid (4 drops) for 11/2 hour. The solution was cooled, neutralised with a few drops of triethylamine and run down. The residue was redissolved in ether and the solution washed with water, dried over magnesium sulphate and the solvent removed under vacuum leaving 4.7 g (86%) title product as a buff-coloured oil. The structure was confirmed by NMR.

reactant | 5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 0.02 mole, 5 g | BrC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C10H11BrO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 5-Bromo-2,3-dihydro-3,3-dimethyl-2-ethoxybenzofuran | 4.7 g, 86% | BrC=1C=CC2=C(C(C(O2)OCC)(C)C)C1 | C12H15BrO2
